US04584293
(d) 1-[2-(2-Amino-4,5-dichlorophenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
Here, 1-[2-(4,5-dichloro-2-nitro-phenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane (15.8 g, 0.031 mol) is dissolved in methanol (300 ml) and mixed with 98% hydrazine hydrate (4.65 ml). Raney nickel (2 g) is added in batches with stirring. Then the mixture is stirred for 2 hours at ambient temperature, the catalyst is filtered off and the filtrate is concentrated by evaporation in vacuo. The viscous residue is purified by column chromatography over alumina N (400 g) [activity II, eluant: methylene chloride and increasing amounts of ethanol (up to 1%]. Yield: 13.9 g. IR spectrum (methylene chloride): 1660 cm-1 (C=O), 1515 cm-1 (Amide-II).

reactant | 1-[2-(4,5-dichloro-2-nitro-phenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | 0.031 mol, 15.8 g | ClC1=CC(=C(C=C1Cl)CC(=O)NCCCN(C1CC2=CC(=C(C=C2CC1)OC)OC)C)[N+](=O)[O-] | C24H29Cl2N3O5
reactant | hydrazine hydrate | 4.65 ml | O.NN
solvent | methanol | 300 ml | CO | CH4O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 1-[2-(2-Amino-4,5-dichlorophenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | NC1=C(C=C(C(=C1)Cl)Cl)CC(=O)NCCCN(C1CC2=CC(=C(C=C2CC1)OC)OC)C | C24H31Cl2N3O3
